US04711961
2-(3-Methoxyphenyl)-1,2-benzisoselenazole-3(2H)-thione
The following compounds were prepared analogously to the instructions of Example 2: 2-(2-fluorophenyl)-1,2-benzisoselenazole-3(2H)-thione, melting point 55°-57° C., 2-(3,4-methylenedioxyphenyl)-1,2-benzisoselenazol-3(2H)-thione, melting point 85°-88° C., 2-(phenylmethyl)-1,2-benzisoselenazole-3(2H)-thione, melting point 41° C., 2-(4-phenylbutyl)-1,2-benzisoselenazole-3(2H)-thione, oil, 2-ethyl-1,2-benzisoselenazole-3(2H)-thione, oil, 2-(2-methylphenyl)-1,2-benzisoselenazole-3(2H)-thione, melting point 65°-67° C. and 2-butyl-1,2-benzisoselenazole-3(2H)-thione, oil.

reactant | 2-(2-fluorophenyl)-1,2-benzisoselenazole-3(2H)-thione | FC1=C(C=CC=C1)N1[Se]C2=C(C1=S)C=CC=C2 | C13H8FNSSe
reactant | 2-(3,4-methylenedioxyphenyl)-1,2-benzisoselenazol-3(2H)-thione | C1OC=2C=C(C=CC2O1)N1[Se]C2=C(C1=S)C=CC=C2 | C14H9NO2SSe
reactant | 2-(phenylmethyl)-1,2-benzisoselenazole-3(2H)-thione | C1(=CC=CC=C1)CN1[Se]C2=C(C1=S)C=CC=C2 | C14H11NSSe
reactant | 2-(4-phenylbutyl)-1,2-benzisoselenazole-3(2H)-thione | C1(=CC=CC=C1)CCCCN1[Se]C2=C(C1=S)C=CC=C2 | C17H17NSSe
reactant | 2-ethyl-1,2-benzisoselenazole-3(2H)-thione | C(C)N1[Se]C2=C(C1=S)C=CC=C2 | C9H9NSSe
reactant | 2-(2-methylphenyl)-1,2-benzisoselenazole-3(2H)-thione | CC1=C(C=CC=C1)N1[Se]C2=C(C1=S)C=CC=C2 | C14H11NSSe
reactant | 2-butyl-1,2-benzisoselenazole-3(2H)-thione | C(CCC)N1[Se]C2=C(C1=S)C=CC=C2 | C11H13NSSe
product | 2-(3-Methoxyphenyl)-1,2-benzisoselenazole-3(2H)-thione | COC=1C=C(C=CC1)N1[Se]C2=C(C1=S)C=CC=C2 | C14H11NOSSe
